US04256481
Preparation of N-dichloroacetyl-1-oxa-4-azaspiro[4,5]decane (compound 1)
From a boiling mixture of 64 g. (0.645 moles) of cyclohexanone and 30 g. (0.491 moles) of ethanolamine in 100 ml. of benzene the water formed is continuously distilled off. Boiling is continued until 8.8 ml. of water are separated. The reaction mixture is then cooled, 55 g. (0.55 moles) of a 40% aqueous sodium hydroxide solution are added followed by dropwise addition of 74 g. (0.5 moles) of dichloroacetyl chloride with external salt/ice cooling. The mixture is stirred for two additional hours at room temperature and thereafter washed with an aqueous hydrochloric acid solution and subsequently with water. From the neutral mixture obtained benzene is distilled off in vacuo. 10 g. (0.4 moles) of a greenish-white crystalline substance are obtained. Recrystallization from absolute ethanol affords a white crystalline product melting at 105.5° to 107° C. The structure of the named compound can be verified by IR spectrum analysis.

reactant | cyclohexanone | 0.645 moles | C1(CCCCC1)=O | C6H10O
reactant | ethanolamine | 0.491 moles | C(O)CN | C2H7NO
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | dichloroacetyl chloride | 0.5 moles | ClC(C(=O)Cl)Cl | C2HCl3O
solvent | water | O | H2O
product | N-dichloroacetyl-1-oxa-4-azaspiro[4,5]decane | ClC(C(=O)N1CCOC12CCCCC2)Cl | C10H15Cl2NO2
